US07485634B2
Preparation of Ethyl 3-Benzoyl-8-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 8-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and benzoyl chloride; 1H-NMR (CDCl3): δ 10.41 (1H, br s), 7.98 (1H, s), 7.56 (2H, m), 7.52 (1H, m), 7.46 (2H, m), 7.39 (1H, d), 6.86 (1H, d), 6.79 (1H, dd), 4.22 (2H, q), 4.19 (2H, t), 3.86 (3H, s), 3.23 (2H, t), 1.20 (3H, t); MS (ES): 391 (MH+).

reactant | ethyl 8-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | COC=1C=CC=2C3=C(NC2C1)C(=CNCC3)C(=O)OCC | C16H18N2O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Ethyl 3-Benzoyl-8-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C1=CC=CC=C1)(=O)N1C=C(C=2NC=3C=C(C=CC3C2CC1)OC)C(=O)OCC | C23H22N2O4
